US07217723B2
(5-Bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl)-thiophene-2-yl)-carbamic acid t-butyl ester
To a solution of (3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl) carbamic acid t-butyl ester (the compound of Preparation Example 96) (6 g) in N,N-dimethylformamide (50 mL) was added N-bromosuccinimide (2.6 g) in small amounts on an ice bath. After stirring at room temperature for 1 hour, water was added, the solution was extracted with ethyl acetate. After the organic layer was washed with water, an aqueous solution of sodium bicarbonate and saturated sodium chloride water, and was dried with anhydrous magnesium sulfate. The extract was purified by passing through a column of NH silica gel, and the title compound (6.6 g) was obtained as a colorless candy-like substance.

reactant | (3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl) carbamic acid t-butyl ester | C(C)(C)(C)OC(NC=1SC=CC1S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O)=O | C18H23FN2O5S2
reactant | N-bromosuccinimide | 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (5-Bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl)-thiophene-2-yl)-carbamic acid t-butyl ester | 6.6 g | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O)Br)=O | C18H22BrFN2O5S2
